US06555556B1
3-Bromo-4-(1-t-butoxycarbonylpiperidin-4-yloxy)aniline
To a solution of 3-bromo-4-(1-t-butoxycarbonylpiperidin-4-yloxy)nitrobenzene (3.1 g) in acetic acid (40 ml) was added zinc powder (10.0 g) in ten portions and the mixture was stirred at room temperature for 5 hours. The reaction mixture was filtered through Celite (trade mark) and the filtrate was extracted with ethyl acetate. The extractant was washed with saturated aqueous potassium carbonate, water and brine, dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=1/1 as an eluant to give the desired compound (2.0 g, yield 69%) as a brown amorphous solid.

reactant | 3-bromo-4-(1-t-butoxycarbonylpiperidin-4-yloxy)nitrobenzene | 3.1 g | BrC=1C=C(C=CC1OC1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C16H21BrN2O5
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 10.0 g | [Zn] | Zn
product | 3-Bromo-4-(1-t-butoxycarbonylpiperidin-4-yloxy)aniline | 2.0 g, yield 69% | BrC=1C=C(N)C=CC1OC1CCN(CC1)C(=O)OC(C)(C)C | C16H23BrN2O3
